US08097628B2
A mixture of 4-((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one (250.4 g, 0.547 mol), Pearlman's catalyst (25 g) and 10% Pd/C (25 g, 50% wet) in EtOH (5 L) was stirred at 50° C. under 5 bar of H2 for 3.5 h. The reaction mixture was filtered through celite and the filtrate was evaporated to give 4-[(1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-(hydroxymethyl)ethyl]-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one (191.2 g, 95%) as a dark blue solid.

reactant | 4-((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one | 0.547 mol, 250.4 g | CC(C)(C)[Si](OC[C@H](COCC1=CC=CC=C1)N1C2=C(NCC1=O)C=CC(=N2)OC)(C)C | C24H35N3O4Si
catalyst | Pearlman's catalyst | 25 g | [OH-].[OH-].[Pd+2]
solvent | EtOH | 5 L | CCO | C2H6O
catalyst | Pd/C | 25 g | [Pd] | Pd
product | 4-[(1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-(hydroxymethyl)ethyl]-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one | 191.2 g, 95% | CC(C)(C)[Si](OC[C@H](CO)N1C2=C(NCC1=O)C=CC(=N2)OC)(C)C | C17H29N3O4Si
